US07645755B2
d) 5-Amino-6-(4,4-dimethyl-cyclohex-1-enyl)-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester
A solution of 209 mg (0.587 mmol) 5-amino-6-bromo-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (as prepared in the previous step) in 5 mL of toluene and 2.5 mL of EtOH was treated with 99.3 mg (0.645 mmol) 4,4-dicyclohex-1-enylboronic acid and 2.34 mL (4.69 mmol) 2 M aqueous Na2CO3. The mixture was degassed via sonication, placed under argon, treated with 47.4 mg (0.0410 mmol) Pd(PPh3)4, and heated to 80° C. for 16 h. The mixture was diluted with EtOAc and washed with water. The aqueous layer was extracted with additional EtOAc, and the combined organic layers were dried over MgSO4 and concentrated in vacuo. Chromatography of the residue on a 50-g silica Varian MegaBond Elut column with 25% EtOAc-hexanes afforded 150 mg (66%) of the title compound as a white foamy solid. Mass spectrum (ESI, m/z): Calcd. for C23H35N3O2, 386.3 (M+H), found 386.3.

reactant | 5-amino-6-bromo-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 0.587 mmol, 209 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=C(C=C1)N)Br | C15H22BrN3O2
reactant | EtOH | 2.5 mL | CCO | C2H6O
reactant | Na2CO3 | 4.69 mmol, 2 M, 2.34 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.0410 mmol, 47.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Amino-6-(4,4-dimethyl-cyclohex-1-enyl)-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 150 mg, 66% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=C(C=C1)N)C1=CCC(CC1)(C)C | C23H35N3O2
